US07432260B2
2-Chloro-N-{4-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-acetamide [50].
By treatment of [4-(2,4-dimethylthiazol-5-yl)-pyrimidin-2-yl]-(4-aminophenyl)-amine with chloroacetyl chloride. Mp. 217-219° C. 1H-NMR (DMSO-D6) δ: 2.61 (s, 3H, CH3), 2.64 (s, 3H, CH3), 4.22 (s, 2H, CH2), 7.05 (d, 1H, J=5.4 Hz, pyrimidinyl-H), 7.50 (d, 2H, J=8.8 Hz, Ph-H), 7.70 (d, 2H, J=8.8 Hz, Ph-H), 8.49 (d, 1H, J=4.9 Hz, pyrimidinyl-H), 9.65 (s, 1H, NH), 10.20 (s, 1H, NH). MS (ESI+) m/z 374.47 [M+H]+ (C17H16ClN5OS requires 373.86).

reactant | [4-(2,4-dimethylthiazol-5-yl)-pyrimidin-2-yl]-(4-aminophenyl)-amine | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N | C15H15N5S
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
product | 2-Chloro-N-{4-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-acetamide | ClCC(=O)NC1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)C)C | C17H16ClN5OS
